US08030304B2
2,5-Dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one
Add ethyl acetoacetate (128 g, 0.98 mol) dropwise to an acetic acid solution (500 mL) of 5-methyl-2H-pyrazol-3-ylamine (100 g, 0.95 mol), keeping the temperature at 25-28° C. Heat the mixture at reflux for 10 h and then cool to room temperature. Add the reaction to tert-butyl methyl ether (5 L) cooled to 5° C., keeping the temperature below 10° C. Stir for 1 h at 5° C., and filter. Dry the resulting material in vacuo overnight to provide a white solid (158 g, 96%).

reactant | ethyl acetoacetate | 0.98 mol, 128 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
reactant | 5-methyl-2H-pyrazol-3-ylamine | 0.95 mol, 100 g | CC=1C=C(NN1)N | C4H7N3
solvent | tert-butyl methyl ether | 5 L | COC(C)(C)C | C5H12O
product | 2,5-Dimethyl-4H-pyrazolo[1,5-a]pyrimidin-7-one | 158 g, 96% | CC1=NN2C(NC(=CC2=O)C)=C1 | C8H9N3O
